US06458780B1
Aluminum chloride (16.2 g) was added to a solution of 15.0 ml of isobutyryl chloride in 100 ml of carbon disulfide. A solution of 40 ml of dichloromethane in 2.50 g of imidazo[5,1-b]thiazole was added dropwise to the mixture. The mixture was stirred at room temperature for 20 hr. Dichloromethane (100 ml) was added to the reaction solution. Water (60 ml) was added dropwise thereto with stirring. The organic layer was then separated. Dichloromethane (200 ml) and 100 g of sodium carbonate were added to the aqueous layer. The mixture was stirred. The insolubles were removed by filtration, and washed with dichloromethane. The filtrate was combined with the organic layer. The combined organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:ethyl acetate=1:1) to give 2.75 g of 7-isobutyrylimidazo[5,1-b]thiazole.

reactant | Aluminum chloride | 16.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isobutyryl chloride | 15.0 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | Dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | Water | 60 ml | O | H2O
reactant | imidazo[5,1-b]thiazole | 2.50 g | S1C=2N(C=C1)C=NC2 | C5H4N2S
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 7-isobutyrylimidazo[5,1-b]thiazole | 2.75 g | C(C(C)C)(=O)C=1N=CN2C1SC=C2 | C9H10N2OS
